US04027026
A solution of 3-amino-2-hydroxymethylpyridine hydrochloride (3.4 g.) and cysteamine hydrochloride (2.38 g.) in aqueous hydrobromic acid (50 ml. 48%) was heated under reflux for 12 hours. Concentration under reduced pressure followed by re-evaporation of the residue with ethanol gave a yellow solid (7.5 g.) which was recrystallised from methanol-ether to afford 3-amino-2-[(2-aminoethyl)thiomethyl]pyridine dihydrobromide (5.8 g.) m.p. 195°-196°.

reactant | 3-amino-2-hydroxymethylpyridine hydrochloride | 3.4 g | Cl.NC=1C(=NC=CC1)CO
reactant | cysteamine hydrochloride | 2.38 g | Cl.NCCS
reactant | hydrobromic acid | 50 ml | Br | BrH
product | 3-amino-2-[(2-aminoethyl)thiomethyl]pyridine dihydrobromide | 5.8 g | Br.Br.NC=1C(=NC=CC1)CSCCN | InChI=1S/C8H13N3S.2BrH/c9-3-5-12-6-8-7(10)2-1-4-11-8;;/h1-2,4H,3,5-6,9-10H2;2*1H
